US04115398
The process for the preparation of this compound and its physical properties will be given below. A solution of 3.46 grams of o-chlorocinnamyl chloride and 4.41 grams of isoindoline in 20 milliliters of ethanol is stirred for 12 hours at room temperature. After cmmpletion of the reaction, the solvent is distilled off. The resulting residue is then rendered alkaline by the addition of 10% sodium hydroxide and extracted with chloroform. The chloroform layer is then purified by silica gel column chromatography, and the resulting oily product is treated as in Example 1-a to obtain 2.32 grams (yield 41% of N-(o-chlorocinnamyl)-isoindoline hydrochloride as crystals having a melting point of 170°-172° C. (decomposition).

reactant | o-chlorocinnamyl chloride | 3.46 grams | ClC1=C(C=CCCl)C=CC=C1 | C9H8Cl2
reactant | isoindoline | 4.41 grams | C1NCC2=CC=CC=C12 | C8H9N
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
product | N-(o-chlorocinnamyl)-isoindoline hydrochloride | yield 41% | Cl.ClC1=C(C=CCN2CC3=CC=CC=C3C2)C=CC=C1 | InChI=1S/C17H16ClN.ClH/c18-17-10-4-3-6-14(17)9-5-11-19-12-15-7-1-2-8-16(15)13-19;/h1-10H,11-13H2;1H
